US04638067
According to example 30, by reacting 7-bromoacetyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester with 2-[N-(2-acetoxyethyl)-N-acetylamino]thioacetamide in ethanol gave 1-ethyl-6-fluoro-1,4-dihydro-7-[2-[[N-(2-acetoxyethyl)-N-acetylamino]methyl]-4-thiazolyl]-4-oxo-3-quinolinecarboxylic acid ethyl ester, mp 148°-152° C., resolidified and melted 164°-165° C., which was hydrolyzed with refluxing 6 N hydrochloric acid to afford the titled compound, mp 290° C. (dec).

reactant | 7-bromoacetyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)C(CBr)=O)CC | C16H15BrFNO4
reactant | 2-[N-(2-acetoxyethyl)-N-acetylamino]thioacetamide | C(C)(=O)OCCN(C(C)=O)CC(=S)N | C8H14N2O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-6-fluoro-1,4-dihydro-7-[2-[[N-(2-acetoxyethyl)-N-acetylamino]methyl]-4-thiazolyl]-4-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)C=1N=C(SC1)CN(C(C)=O)CCOC(C)=O)CC | C24H26FN3O6S
